US07342118B2
Combine L-norvaline methyl ester-hydrochloride (1 equiv) with 6,8-difluoro-3,4-dihydro-1H-naphthalen-2-one (1 equiv) in methylene chloride and stir 30 min. and add sodium triacetoxy borohydride (1.1 equiv) and stir at rt overnight. The reaction is quenched with aqueous sodium bicarbonate, extracted with methylene chloride, dried, and concentrated. The resultant material is purified by silica gel chromatography to afford the separated diastereomers of 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid methyl ester: Diastereomer 1; 13C NMR (100 MHz, CDCl3) 14.0, 19.4, 27.7, 28.2, 29.5, 29.6, 36.3, 51.1, 58.7, 100.7, 100.9, 101.2, 110.5, 110.7, 110.8, 118.5, 118.6, 141.1, 159.7, 159.8, 162.1, 176.7; MS m/z 298.3 (M+1). Diastereomer 2; Diagnostic 13C NMR (100 MHz, CDCl3) 14.0, 19.3, 28.3, 28.4, 28.5, 30.3, 36.4, 51.1, 52.0, 58.5, 100.7, 100.9, 101.2, 110.5, 110.7, 176.8; MS m/z 298.3 (M+1).

reactant | L-norvaline methyl ester-hydrochloride | 1 equiv | Cl.COC([C@@H](N)CCC)=O
reactant | 6,8-difluoro-3,4-dihydro-1H-naphthalen-2-one | 1 equiv | FC=1C=C2CCC(CC2=C(C1)F)=O | C10H8F2O
reactant | sodium triacetoxy borohydride | 1.1 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid methyl ester | COC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O | C16H21F2NO2
